US09382243B2
Step B. (2R,3S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(((tert-butyldimethylsilyl)oxy)methyl)tetrahydro-2H-pyran-3-ol
To a stirred solution of (2R,3S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxymethyl)tetrahydro-2H-pyran-3-ol (242 mg, 0.416 mmol) in anhydrous DMF (2.0 mL) under nitrogen was added DMAP (10 mg, 0.083 mmol) and triethylamine (0.13 mL, 93 mg, 0.915 mmol). The mixture was cooled to 0° C., then TBSCl (132 mg, 0.873 mmol) was added as a solution in anhydrous DCM (0.5 mL). After stirring at 0° C. for 0.5 hours, methanol (5 mL) was added and the mixture was poured into saturated aqueous sodium bicarbonate (75 mL). The mixture was extracted with ethyl acetate (2×100 mL), and the combined organic layers were washed with brine (50 mL), dried over sodium sulfate, and concentrated under reduced pressure. The resultant oil was chromatographed using a Biotage™ 10 g silica gel cartridge eluted with 0-20% EtOAc in 1:1 Hexane/DCM over 20 column volumes. The combined product fractions were concentrated under reduced pressure and dried under high vacuum overnight to provide the desired product as a white solid film. LC-MS: calculated for C36H50ClN3O5Si2 695.30, observed m/e: 696.39 (M+H)+ (Rt 3.33/4 min).

reactant | (2R,3S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxymethyl)tetrahydro-2H-pyran-3-ol | 0.416 mmol, 242 mg | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2C[C@@H]([C@H](OC2)CO)O)Cl)C2=CC=CC=C2 | C30H36ClN3O5Si
reactant | triethylamine | 0.915 mmol, 0.13 mL, 93 mg | C(C)N(CC)CC | C6H15N
reactant | TBSCl | 0.873 mmol, 132 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | sodium bicarbonate | 75 mL | C([O-])(O)=O.[Na+]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.083 mmol, 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 5 mL | CO | CH4O
product | (2R,3S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(((tert-butyldimethylsilyl)oxy)methyl)tetrahydro-2H-pyran-3-ol | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2C[C@@H]([C@H](OC2)CO[Si](C)(C)C(C)(C)C)O)Cl)C2=CC=CC=C2 | C36H50ClN3O5Si2
